US08097708B2
Synthesis of 2-(5-bromopentyl)oxirane
7-Bromo-1-heptene (5.10 g) was dissolved in chloroform (29 ml), the solution was added with m-chloroperbenzoic acid (6.21 g) under ice cooling, and the mixture was stirred at room temperature for 3 hours. The reaction mixture was added with diethyl ether and saturated aqueous sodium thiosulfate, the layers were separated, and the organic layer was washed with saturated aqueous sodium hydrogencarbonate, then dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under ordinary pressure to obtain the title compound (5.27 g).

reactant | 7-Bromo-1-heptene | 5.10 g | BrCCCCCC=C | C7H13Br
reactant | m-chloroperbenzoic acid | 6.21 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 29 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(5-bromopentyl)oxirane | 5.27 g | BrCCCCCC1OC1 | C7H13BrO
